US07163937B2
A solution of (1R,3R,4S)-{4-[(3S)-3-amino-2-oxo-pyrrolidin-1-yl]-3-propyl-cyclohexyl}-carbamic acid tert-butyl ester (0.27 mmol assumed) in DMF (4 mL) was charged with 2-(3-isopropyl-ureido)-5-trifluoromethyl-benzoic acid (82 mg, 0.3 mmol), N,N-diethylisopropylamine (0.19 mL, 1.1 mmol), and BOP (142 mg, 0.32 mmol). The reaction was stirred for 48 h at RT and then partitioned between EtOAc and sat. NaHCO3; the aqueous phase was back extracted with EtOAc (1×). The organic phases were combined, washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo to afford (1R,3R,4S)-(4-{(3S)-3-[2-(3-isopropyl-ureido)-5-trifluoromethyl-benzoylamino]-2-oxo-pyrrolidin-1-yl}-3-propyl-cyclohexyl)-carbamic acid tert-butyl ester. MS found: (M+H)+=612.3.

reactant | (1R,3R,4S)-{4-[(3S)-3-amino-2-oxo-pyrrolidin-1-yl]-3-propyl-cyclohexyl}-carbamic acid tert-butyl ester | 0.27 mmol | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)N)=O)CCC)=O | C18H33N3O3
reactant | 2-(3-isopropyl-ureido)-5-trifluoromethyl-benzoic acid | 0.3 mmol, 82 mg | C(C)(C)NC(NC1=C(C(=O)O)C=C(C=C1)C(F)(F)F)=O | C12H13F3N2O3
reactant | N,N-diethylisopropylamine | 1.1 mmol, 0.19 mL | C(C)N(CC)C(C)C | C7H17N
reactant | BOP | 0.32 mmol, 142 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (1R,3R,4S)-(4-{(3S)-3-[2-(3-isopropyl-ureido)-5-trifluoromethyl-benzoylamino]-2-oxo-pyrrolidin-1-yl}-3-propyl-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC(C1=C(C=CC(=C1)C(F)(F)F)NC(=O)NC(C)C)=O)=O)CCC)=O | C30H44F3N5O5
